US06329381B1
6-Amino-9-benzyl-2-(isobutylthio)purine
To DMF suspension (10 ml) containing sodium hydride (300 mg, 7.5 mmol, 60% in mineral oil) were added 2-methylpropane-1-thiol (1 ml, 11 mmol) and 6-amino-9-benzyl-2-chloropurine (200 mg, 0.77 mmol) in order. The mixture was stirred under heating at 100° C. for 5 hours. Brine was added thereto and the mixture was extracted with chloroform. The organic layer was dried on magnesium sulfate, filtered and the solvent in the filtrate was evaporated in vacuo. The residue was purified with silica gel chromatography (1% methanol/chloroform) to give the subject compound (76 mg, yield 31%).

reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | sodium hydride | 7.5 mmol, 300 mg | [H-].[Na+]
reactant | 2-methylpropane-1-thiol | 11 mmol, 1 ml | CC(CS)C | C4H10S
reactant | 6-amino-9-benzyl-2-chloropurine | 0.77 mmol, 200 mg | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=CC=C1 | C12H10ClN5
solvent | Brine | [Cl-].[Na+].O
product | 6-Amino-9-benzyl-2-(isobutylthio)purine | 76 mg, yield 31% | NC1=C2N=CN(C2=NC(=N1)SCC(C)C)CC1=CC=CC=C1 | C16H19N5S
